US03962224
Dimethyl N-benzyl-aminomethylphosphonate hydrochloride (80.0 g) in methanol (800 ml) is hydrogenated at 40 psi with 10% palladium on powdered charcoal (4.0 g). The catalyst is removed by filtration through a pad of super cel. Evaporation of the methanolic filtrate gives a clear residue which is taken up in benzene. Removal of the benzene in vacuo affords crystalline dimethyl aminomethylphosphonate hydrochloride.

reactant | Dimethyl N-benzyl-aminomethylphosphonate hydrochloride | 80.0 g | Cl.C(C1=CC=CC=C1)NCP(OC)(OC)=O
reactant | charcoal | 4.0 g | C | CH4
solvent | methanol | 800 ml | CO | CH4O
solvent | benzene | C1=CC=CC=C1 | C6H6
catalyst | palladium | [Pd] | Pd
product | dimethyl aminomethylphosphonate hydrochloride | Cl.NCP(OC)(OC)=O | InChI=1S/C3H10NO3P.ClH/c1-6-8(5,3-4)7-2;/h3-4H2,1-2H3;1H
